US07683067B2
3-(5-Cyanopyridin-2-yl)-2-hydroxy-N-{2-[(4-methylpiperazin-1-yl)sulfonyl]ethyl}-1H-indole-5-carboxamide hydrochloride
Sodium hydride (0.026 g of 60% suspension in mineral oil, 0.65 mmol) was added to a cooled (0° C.) solution of N-{2-[(4-methylpiperazin-1-yl)sulfonyl]ethyl}-2-oxoindoline-5-carboxamide (0.120 g, 33 mmol) in N,N-dimethylformamide (5 mL). The reaction mixture was stirred at 0° C. for 10 min under an N2 atmosphere, followed by the addition of 2-chloro-5-cyanopyridine (0.050 g, 0.36 mmol) in N,N-dimethylformamide (2 mL). The reaction vessel was closed, immediately warmed up to 100° C., and the reaction was stirred at this temperature for 1 h. The cooled mixture was diluted with a saturated sodium hydrogen carbonate solution (5 mL) and concentrated in vacuo. The residue was suspended in methanol/dichloromethane (1:1), silica gel (˜2 g) was added and mixture was re-concentrated in vacuo. The solid residue was purified on a silica gel column using dichloromethane/methanol/aqueous NH3, (60:10:1), as the eluent. Fractions containing product were concentrated, the resulting orange foam was suspended in ethyl acetate (3 mL), and filtered to give 0.020 g (13% yield) of the title compound as the base. This material was dissolved in chloroform/methanol, (1:1), and treated with HCl in diethyl ether followed by addition of diethyl ether. The resulting yellow crystals were collected by filtration and washed with diethyl ether to afford 0.014 g (60% yield) of the title compound: 1H NMR (DMSO-d6, 300 MHz) δ 14.68 (br s, 1H), 10.94 (s, 1H), 10.55 (br s, 1H), 8.74 (br s, 1H), 8.59 (s, 1H), 8.00 (s, 1H), 7.86 (d, J=9.0 Hz, 1H), 7.70 (d, J=9.0 Hz, 1-H), 7.60 (d, J=8.1 Hz, 1H), 6.98 (d, J=8.1 Hz, 1H), 3.83-3.75 (m, 4H), 3.70-3.62 (m, 2H), 3.52-3.42 (m, 4H), 3.27-3.20 (m, 2H), 3.12-3.05 (m, 2H), 2.75 (s, 3H); MS (ES) m/z 469 (M++1).

reactant | Sodium hydride | 0.65 mmol, 0.026 g | [H-].[Na+]
reactant | N-{2-[(4-methylpiperazin-1-yl)sulfonyl]ethyl}-2-oxoindoline-5-carboxamide | 33 mmol, 0.120 g | CN1CCN(CC1)S(=O)(=O)CCNC(=O)C=1C=C2CC(NC2=CC1)=O | C16H22N4O4S
reactant | 2-chloro-5-cyanopyridine | 0.36 mmol, 0.050 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
product | 3-(5-Cyanopyridin-2-yl)-2-hydroxy-N-{2-[(4-methylpiperazin-1-yl)sulfonyl]ethyl}-1H-indole-5-carboxamide hydrochloride | 0.020 g, 13% yield | Cl.C(#N)C=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C(=O)NCCS(=O)(=O)N1CCN(CC1)C)O | InChI=1S/C22H24N6O4S.ClH/c1-27-7-9-28(10-8-27)33(31,32)11-6-24-21(29)16-3-5-18-17(12-16)20(22(30)26-18)19-4-2-15(13-23)14-25-19;/h2-5,12,14,26,30H,6-11H2,1H3,(H,24,29);1H
